US04128648
B. 2,3,8,9-Tetrahydro-5-(3,4,5-trimethoxyphenyl)-9-[(3,4,5-trimethoxyphenyl)methylene]-5H,6H-pyrano[4,3-d]thiazolo[3,2-a]pyrimidine
A stirred solution of tetrahydro-3,5-bis[(3,4,5-trimethoxyphenyl)methylene]-4H-pyran-4-one (3.0 g, 6.5 mmole) and 2-amino-2-thiazoline (0.8 g, 7.8 mmole) in 75 ml of CHCl3 is heated at reflux for 44 hours. After cooling, the solution is filtered to remove a small amount of insoluble material. The solvent is evaporated to give an oily residue which solidifies when treated with a small amount of EtOH. The yield is 2.2 g, m.p. 166°-168°. Crystallization from 10 ml of MeCN gives 1.5 g (42%) of light yellow solid, m.p. 153°-155°. The m.p. of a sample of this material does not change when recrystallized from MeCN.

reactant | tetrahydro-3,5-bis[(3,4,5-trimethoxyphenyl)methylene]-4H-pyran-4-one | 6.5 mmole, 3.0 g | COC=1C=C(C=C(C1OC)OC)C=C1COCC(C1=O)=CC1=CC(=C(C(=C1)OC)OC)OC | C25H28O8
reactant | 2-amino-2-thiazoline | 7.8 mmole, 0.8 g | NC=1SCCN1 | C3H6N2S
reactant | EtOH | CCO | C2H6O
solvent | CHCl3 | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,3,8,9-Tetrahydro-5-(3,4,5-trimethoxyphenyl)-9-[(3,4,5-trimethoxyphenyl)methylene]-5H,6H-pyrano[4,3-d]thiazolo[3,2-a]pyrimidine | COC=1C=C(C=C(C1OC)OC)C1C2=C(N=C3N1CCS3)C(COC2)=CC2=CC(=C(C(=C2)OC)OC)OC | C28H32N2O7S
